US06462075B1
Potassium hydroxide (3.48 mmol), dissolved in water (0.87 M (4.0 ml)), is added over about 30 minutes to a refluxing solution of the alpha-bromochalcone (3.48 mmol) in 0.35 M of 1:1 water/acetone (5 ml each). After 20 minutes of further refluxing, the solution is cooled and diluted with water. The water is extracted with ether, which is dried with MgSO4 and evaporated. Chromatography on silica gel yielded 1,3-diphenylpropynone and its derivatives.

reactant | Potassium hydroxide | 3.48 mmol | [OH-].[K+]
reactant | alpha-bromochalcone | 3.48 mmol | C1=CC=C(C=C1)/C=C(/C(=O)C2=CC=CC=C2)\Br | C15H11BrO
solvent | water | 0.87 M, 4.0 ml | O | H2O
solvent | water acetone | 0.35 M, 5 ml | O.CC(=O)C
product | 1,3-diphenylpropynone | C1=CC=C(C=C1)C#CC(=O)C2=CC=CC=C2 | C15H10O
